### ISSUE TITLE
`isDefEq` does not always assign goals

### ISSUE THREAD

**Issue by digama0** [leanprover/lean4#2054]
The documentation on `assign` says: 
```lean
/--
Add `mvarId := x` to the metavariable assignment.
This method does not check whether `mvarId` is already assigned, nor it checks whether
a cycle is being introduced, or whether the expression has the right type.
This is a low-level API, and it is safer to use `isDefEq (mkMVar mvarId) x`.
-/
```
However the suggested pattern `isDefEq (mkMVar mvarId) x` does not assign `mvarId` if the type of `mvarId` is a proposition. This is the source of several bugs in mathlib tactics, and at least one bug in core:

```lean
import Lean
open Lean Elab Tactic

elab "my_infer_instance" : tactic => do
  (← getMainGoal).inferInstance
  replaceMainGoal []

class Foo : Prop
instance : Foo := sorry
example : Foo := by my_infer_instance
-- (kernel) declaration has metavariables '_example'
```
This is because `inferInstance` doesn't actually assign the mvar:
```lean
def _root_.Lean.MVarId.inferInstance (mvarId : MVarId) : MetaM Unit := mvarId.withContext do
  mvarId.checkNotAssigned `infer_instance
  let synthVal ← synthInstance (← mvarId.getType)
  unless (← isDefEq (mkMVar mvarId) synthVal) do
    throwTacticEx `infer_instance mvarId "`infer_instance` tactic failed to assign instance"
```
The current workaround is to do `isDefEq` first and then call `mvarId.assign val` afterward. It would probably be good to have an API function for this (and point users to it in `MVarId.assign`).

**Comment by gebner** [comment]
👍 It would be great to have a safe variant of `assign`.  Do you have any ideas on the naming?

**Comment by digama0** [comment]
if it returns a bool like `isDefEq`, perhaps `MVarId.tryAssign`? Or rename `assign` to `assignUnchecked` and call it `assign`

**Comment by kmill** [comment]
The idea of a safe variant of `assign` just came up on #2506. I don't have any naming ideas, but I do want to be sure that a safe assign is safe along a few other axes as well.

1. In addition to checking that the metavariable is not assigned, it's probably good to check that it's not a delayed assignment as well. Probably also that it's not a `synthetic` metavariable, perhaps enabled by a flag.
2. It would be good to have a flag enabling a check that the metavariable is assignable (i.e., that its depth equals the metacontext depth). The `mkAppM` function respects this for example.
3. There should be a flag enabling the occurs check (`Lean.occursCheck`). The `isDefEq` check isn't enough for a proper occurs check. A basic example is assigning the metavariable to itself, but even assiging `?b := id ?b` evades `isDefEq`.
4. There should be a flag enabling `isDefEq` on the types of the metavariable and of the value. This ensures that the type of the metavariable (if it is itself a metavariable) is assigned.

Plenty of meta code fails to account for item 4, though it seems that it usually works out (for example the `exact` tactic uses `elabTermEnsuringType`, so it uses the elaborator to assign the goal's type if necessary). Here's an example illustrating how `assign` alone can go wrong:
```lean
import Lean

open Lean Elab Tactic Meta

elab "exact0" : tactic => withMainContext <| withAssignableSyntheticOpaque do
  let g ← getMainGoal
  unless ← withoutModifyingState <| isDefEq (← g.getType) (.const ``Nat []) do
    throwError "not defeq"
  g.assign (Expr.const `Nat.zero [])

example : True := by
  have : ?a := ?b
  case b => exact0
  /- This didn't assign the type of `?b`:
  this: ?a
  ⊢ True

  case a
  ⊢ Sort ?u.7349
  -/
  trivial
  case a => exact Bool
/- Error on `example`:
application type mismatch
  (fun this ↦ True.intro) Nat.zero
argument has type
  Nat
but function has type
  Bool → True
-/
```

Here's an implementation of a safe `assign` that has all these checks (except for the `synthetic` one).
```lean
import Lean.Meta.Tactic.Util
import Lean.Util.OccursCheck

open Lean Meta

/-- Safe version of `Lean.MVarId.assign`.
- Checks that the metavariable is not already assigned and isn't a delayed assignment.
- If `checkAssignable` is true, then ensure that the metacontext depth
  is equal to the metavariable depth.
- If `checkNotOccurs` is true, ensures that a cycle is not being introduced.
- If `checkIsDefEq` is true, ensures that the type of the metavariable
  and the type of the value are definitionally equal.
  As a side effect, this ensures that if the type of `mvarId` is itself a metavariable
  then that metavariable is assigned.
If these checks succeed, then the assignment is performed. Otherwise an error is thrown.

Warning: this function assumes the local context of `mvarId` is the current local context
when performing the `isDefEq` check. -/
def Lean.MVarId.assign' (mvarId : MVarId) (val : Expr)
    (checkAssignable : Bool := true)
    (checkNotOccurs : Bool := true) (checkIsDefEq : Bool := true) : MetaM Unit := do
  if (← mvarId.isAssigned) then
    throwError "metavariable has already been assigned"
  if (← mvarId.isDelayedAssigned) then
    throwError "metavariable is a delayed assignment"
  if checkAssignable then
    if !(← mvarId.isAssignable) then
      throwError "metavariable is not assignable"
  if checkNotOccurs then
    unless (← Lean.occursCheck mvarId val) do
      throwTacticEx `assign' mvarId "metavariable occurs in value being assigned"
  if checkIsDefEq then
    unless ← withAssignableSyntheticOpaque <| isDefEq (← mvarId.getType) (← inferType val) do
      throwTacticEx `assign' mvarId
        m!"type of metavariable is not definitionally equal to type of value being assigned"
  mvarId.assign val
```

For example, with the following toy `exact` implementation we can get an occurs check error, where `exact ?b` would initiate a stack overflow. (Related: #2504)
```lean
elab "exact'" t:term : tactic => withMainContext do
  let g ← getMainGoal
  let e ← elabTermEnsuringType t (← g.getType)
  let e ← instantiateMVars e
  g.assign' e
  replaceMainGoal []

example : True := by
  have : Nat := ?b
  rotate_left
  exact' ?b
```

**Comment by nomeata** [comment]
Does the new https://leanprover-community.github.io/mathlib4_docs/Lean/Meta/Basic.html#Lean.MVarId.checkedAssign  address this?
